US07456166B2
6H-Isoindolo[2,1-a]indole-3-carboxamide, 11-cyclohexyl-N-[(dimethylamino)sulfonyl]-6-ethoxy-8-methoxy-. To a 5 L four necked round bottom flask equipped with a temperature controller, a condenser, a N2 inlet and a mechanical stirrer, was charged toluene (900 mL), EtOH (900 mL), 2-bromo-3-cyclohexyl-N-(N,N-dimethylsulfamoyl)-1H-indole-6-carboxamide (90 g, 0.21 mol), 2-formyl-4-methoxyphenylboronic acid (49.2 g, 0.273 mol) and LiCl (22.1 g, 0.525 mol). The resulting solution was bubbled with N2 for 15 mins. A solution of Na2CO3 (66.8 g, 0.63 mol) in H2O (675 mL) was added and the reaction mixture was bubbled with N2 for another (10 mins). Pd(PPh3)4 (7.0 g, 6.3 mmol) was added and the reaction mixture was heated to 70° C. for 20 h. After cooling to 35° C., a solution of 1 N HCl (1.5 L) was added slowly. The resulting mixture was transferred to a 6 L separatory funnel and extracted with EtOAc (2×1.5 L). The combined organic extracts were washed with brine (2 L), dried over MgSO4, filtered and concentrated in vacuo to give a yellow solid, which was triturated with 20% EtOAc in hexane (450 mL, 50° C. to 0° C.) to give 3-cyclohexyl-N-(N,N-dimethylsulfamoyl)-2-(2-formyl-4-methoxyphenyl)-1H-indole-6-carboxamide(65.9 g) as a yellow solid. HPLC purity, 98%.

reactant | 6H-Isoindolo[2,1-a]indole-3-carboxamide | C1=C2C=C3N(C2=CC(=C1)C(=O)N)CC1=CC=CC=C13 | C16H12N2O
reactant | 2-bromo-3-cyclohexyl-N-(N,N-dimethylsulfamoyl)-1H-indole-6-carboxamide | 0.21 mol, 90 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)NS(N(C)C)(=O)=O | C17H22BrN3O3S
reactant | 2-formyl-4-methoxyphenylboronic acid | 0.273 mol, 49.2 g | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
reactant | LiCl | 0.525 mol, 22.1 g | [Li+].[Cl-]
reactant | Na2CO3 | 0.63 mol, 66.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1 N, 1.5 L | Cl | ClH
solvent | H2O | 675 mL | O | H2O
catalyst | Pd(PPh3)4 | 6.3 mmol, 7.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 900 mL | CCO | C2H6O
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
product | 3-cyclohexyl-N-(N,N-dimethylsulfamoyl)-2-(2-formyl-4-methoxyphenyl)-1H-indole-6-carboxamide | 65.9 g | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)NS(N(C)C)(=O)=O)C1=C(C=C(C=C1)OC)C=O | C25H29N3O5S
